US07141583B2
(5S)-3-(4-(3,6-Dihydro-2H-pyran-4-yl)-3-fluorophenyl)-5-(2-oxo-1H-pyridin-1-ylmethyl)oxazolidin-2-one
2-Hydroxypyridine (108 mg, 1.14 mM) was added at room temperature, under an atmosphere of nitrogen, to a stirred suspension of sodium hydride (60% dispersion in oil, 48 mg, 1.2 mM) in N,N-dimethylformamide (5 ml). The reaction was stirred for 30 minutes then (5R)-3-(4-(3,6-dihydro-2H-pyran-4-yl)-3-fluorophenyl)-5-methanesulfonyloxymethyloxazolidin-2-one (400 mg, 1.08 mM; WO 97-09328) was added in one portion. The mixture was stirred and heated at 60° for 5 hour before quenching in water (20 ml) and extracting with ethyl acetate. The extract was washed twice with water and once with saturated brine, dried (magnesium sulfate) and evaporated to an orange oil, which was purified by flash chromatography on silica, eluting with 2.5% methanol in dichloromethane to give the title compound (115 mg) as a colourless solid.

reactant | 2-Hydroxypyridine | 1.14 mM, 108 mg | OC1=NC=CC=C1 | C5H5NO
reactant | sodium hydride | 1.2 mM, 48 mg | [H-].[Na+]
reactant | (5R)-3-(4-(3,6-dihydro-2H-pyran-4-yl)-3-fluorophenyl)-5-methanesulfonyloxymethyloxazolidin-2-one | 1.08 mM, 400 mg | O1CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COS(=O)(=O)C)=O)F | C16H18FNO6S
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (5S)-3-(4-(3,6-Dihydro-2H-pyran-4-yl)-3-fluorophenyl)-5-(2-oxo-1H-pyridin-1-ylmethyl)oxazolidin-2-one | 115 mg | O1CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1C(C=CC=C1)=O)=O)F | C20H19FN2O4
